US06551614B2
To a solution of 0.91 kg (8.0 moles) of potassium acetohydroxamate hydrate in 4.96 kg of 2-methoxyethanol solution was added 1650 g (6.62 moles) of 3-(4-chlorophenoxy)propyl bromide. An additional 200 mL of 2-methoxyethanol was added and the reaction mixture was heated 2 hours at 50° C. After cooling to room temperature the KBr was removed by filtration and washed with 100 mL of 2-methoxyethanol. The filtrate and washings were concentrated on a rotovap, diluted with 1.0 L of EtOAc, and washed with a 600 mL and a 400 mL portion of water before concentration at high vacuum to yield 1707 g of crude 3-(4chlorophenoxy)propyl acetohydroxamate which was used without further purification. This crude material was dissolved in 5.0 L of methanol and 640 g of conc. HCl was added. After 15 hr the starting material was consumed, as determined by TLC utilizing the diazonium spray. The mixture was concentrated at oil pump vacuum to give 1537 g of crude product which was used without further purification. A sample recrystallized from EtOAc melted 115-116° C.

reactant | potassium acetohydroxamate hydrate | 8.0 moles, 0.91 kg | O.C(C)(=O)N[O-].[K+]
reactant | 3-(4-chlorophenoxy)propyl bromide | 6.62 moles, 1650 g | ClC1=CC=C(OCCCBr)C=C1 | C9H10BrClO
reactant | KBr | [K+].[Br-]
solvent | 2-methoxyethanol | 4.96 kg | COCCO | C3H8O2
solvent | 2-methoxyethanol | 200 mL | COCCO | C3H8O2
product | 3-(4chlorophenoxy)propyl acetohydroxamate | 1707 g | C(C)(=O)NOCCCOC1=CC=C(C=C1)Cl | C11H14ClNO3
